US07446222B2
c) 5-(2-Benzyloxy-5-chloro-[1,1′;2′,1″]terphenyl-3″-yl)-1H-tetrazole
A mixture of 5-(2′-bromo-biphenyl-3-yl)-1H-tetrazole (163 mg, 0.54 mmol), 2-benzyloxy-5-chlorobenzeneboronic acid (156 mg, 0.59 mmol), potassium carbonate (589 mg, 4.33 mmol), and tetrakis(triphenylphosphine)palladium(0) (63 mg, 0.05 mmol) in 1.1 toluene/ethanol (5 ml) was stirred and heated under nitrogen for 16 hours. After cooling the mixture was diluted with dichloromethane and water. The organic phase was dried and evaporated.

reactant | 5-(2′-bromo-biphenyl-3-yl)-1H-tetrazole | 0.54 mmol, 163 mg | BrC1=C(C=CC=C1)C1=CC(=CC=C1)C1=NN=NN1 | C13H9BrN4
reactant | 2-benzyloxy-5-chlorobenzeneboronic acid | 0.59 mmol, 156 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)B(O)O | C13H12BClO3
reactant | potassium carbonate | 4.33 mmol, 589 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene ethanol | 5 ml | C1(=CC=CC=C1)C.C(C)O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 63 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-Benzyloxy-5-chloro-[1,1′;2′,1″]terphenyl-3″-yl)-1H-tetrazole | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C=1C(=CC=CC1)C1=CC(=CC=C1)C1=NN=NN1 | C26H19ClN4O
